US06916921B2
2 g pulverized molecular sieve (4 Å) and 1.27 g tetrabutylammoniumfluoride hydrate were added to a solution of 2.0 g (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5,7-dien-3β-ol in 50 ml tetrahydrofuran were added. The mixture was stirred overnight at room temperature, concentrated under reduced pressure and purified by column chromatography to give 1.17 g of (20S)-4,4,20-trimethyl-pregna-5,7-dien-3β,21-diol benzoate.

reactant | tetrabutylammoniumfluoride hydrate | 1.27 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (20S)-4,4-dimethyl-20-[((triisopropylsilyl)oxy)methyl]-pregna-5,7-dien-3β-ol | 2.0 g | CC1(C2=CC=C3[C@@H]4CC[C@H]([C@H](C)CO[Si](C(C)C)(C(C)C)C(C)C)[C@]4(CC[C@@H]3[C@]2(CC[C@@H]1O)C)C)C | C33H58O2Si
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (20S)-4,4,20-trimethyl-pregna-5,7-dien-3β,21-diol benzoate | 1.17 g | C(C1=CC=CC=C1)(=O)O.CC1(C2=CC=C3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@]2(CC[C@@H]1O)C)C)C | InChI=1S/C24H38O2.C7H6O2/c1-15(14-25)17-7-8-18-16-6-9-20-22(2,3)21(26)11-13-24(20,5)19(16)10-12-23(17,18)4;8-7(9)6-4-2-1-3-5-6/h6,9,15,17-19,21,25-26H,7-8,10-14H2,1-5H3;1-5H,(H,8,9)/t15-,17-,18+,19+,21+,23-,24-;/m1./s1
